US07081532B2
A suspension of 466 mg (1 mmol) of 4-chloromethyl-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide hydrochloride in 25 ml of dry ethanol is treated with 381 μl (3 mmol) N-ethylpiperazine and then heated under reflux for 16 hours. The yellow solution is cooled to room temperature and decanted from a small amount of a brown insoluble residue which forms on the wall of the flask. The solvent is evaporated and the residue taken up in citric acid solution (10% w/w) and washed with dichloromethane. The aqueous layer is made basic by addition of sodium bicarbonate and sodium carbonate solution and extracted three times with 150 ml of dichloromethane containing 2 ml of ethanol. The combined organic extracts are washed with conc. sodium chloride solution, dried over sodium sulfate, and evaporated. The residue was stirred with 3 ml of ethyl acetate and the crystalline product filtered and washed with a small amount of ethyl acetate to obtain 4-(4-ethyl-piperazin-1-ylmethyl)-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide; m.p. 209.5–210.5° C.; tR (HPLC) 1) 6.62 min.

reactant | 4-chloromethyl-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide hydrochloride | 1 mmol, 466 mg | Cl.ClCC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1
reactant | N-ethylpiperazine | 3 mmol, 381 μl | C(C)N1CCNCC1 | C6H14N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(4-ethyl-piperazin-1-ylmethyl)-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide | C(C)N1CCN(CC1)CC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1 | C30H33N7O
